US07776864B2
Step 3: Methyl 5,7-dihydroxy-6-phenylpyrazolo[1,5-a]pyrimidine-2-carboxylate
A solution of 5.0 g Methyl 3-amino-1H-pyrazole-5-carboxylate, 8.3 ml diethyl-phenylmalonate and 50 ml diisopropylethylamine in 50 ml DMF is heated to 150° C. for 40 h. The solvent is removed, the solid residue is dissolved in 2-propanol the mixture is stirred for 3 hours. The desired product is filtrated, dried and is used without further purification.

reactant | Methyl 3-amino-1H-pyrazole-5-carboxylate | 5.0 g | NC1=NNC(=C1)C(=O)OC | C5H7N3O2
reactant | diethyl-phenylmalonate | 8.3 ml | C(C)OC(C(C(=O)OCC)C1=CC=CC=C1)=O | C13H16O4
reactant | diisopropylethylamine | 50 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 5,7-dihydroxy-6-phenylpyrazolo[1,5-a]pyrimidine-2-carboxylate | OC1=NC=2N(C(=C1C1=CC=CC=C1)O)N=C(C2)C(=O)OC | C14H11N3O4
